US05403934
3-Bromo-5-(4-Chlorophenyl)-1,2,6-trimethylpyridin-4-one
To a stirred solution of 3-(4-chlorophenyl)-1,2,6-trimethylpyridin-4-one (0.5 g) in acetic acid (5 ml) was added dropwise a solution of bromine (0.1 ml) in acetic acid (1 ml). After 5 min the mixture was poured into water. The solid was filtered off, washed with water and recrytallised from ethanol (10 ml) to give the desired compound (0.25 g), m.p. 264°-266°, NMR δH (CDCl3) 7.3-7.4 (2H, m), 7.05-7.2 (2H, m), 6.95-7.12 (4H, m), 3.65 (3H, s), 2.7 (3H, s), 2.2. (3H, s).

reactant | 3-(4-chlorophenyl)-1,2,6-trimethylpyridin-4-one | 0.5 g | ClC1=CC=C(C=C1)C1=C(N(C(=CC1=O)C)C)C | C14H14ClNO
reactant | bromine | 0.1 ml | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-5-(4-Chlorophenyl)-1,2,6-trimethylpyridin-4-one | 0.25 g | BrC1=C(N(C(=C(C1=O)C1=CC=C(C=C1)Cl)C)C)C | C14H13BrClNO
